US06962917B2
(a) (6-Methoxy-quinolin-4-yl)-acetic acid ethyl ester
6-Methoxy-4-methyl-quinoline (0.791 g, 4.572 mmol) was dissolved in anhydrous diethyl ether and cooled to 0° C. under an argon atmosphere. To the stirred mixture was added sodamide as a 50% w/w slurry in toluene (0.36 g, 4.57 mmol). The resulting slurry was allowed to warm to room temperature and was stirred for 1 hour. To this was added diethylcarbonate (0.28 ml, 2.29 mmol). The reaction mixture was then stirred at reflux for 10 hours after which time it was quenched with water (2 ml). The mixture was partitioned between ethyl acetate (2×100 ml) and water (20 ml). The organic phases were combined and dried over magnesium sulfate. The volatiles were removed under reduced pressure and the residue subjected to purification on silica gel using an ethyl acetate-hexane gradient. This provided the desired product as a brown oil (90 mg, 7%).

reactant | 6-Methoxy-4-methyl-quinoline | 4.572 mmol, 0.791 g | COC=1C=C2C(=CC=NC2=CC1)C | C11H11NO
reactant | sodamide | [NH2-].[Na+]
reactant | toluene | 4.57 mmol, 0.36 g | C1(=CC=CC=C1)C | C7H8
reactant | diethylcarbonate | 2.29 mmol, 0.28 ml | C(C)OC(OCC)=O | C5H10O3
solvent | diethyl ether | C(C)OCC | C4H10O
product | (6-Methoxy-quinolin-4-yl)-acetic acid ethyl ester | 90 mg, 7% | C(C)OC(CC1=CC=NC2=CC=C(C=C12)OC)=O | C14H15NO3
